US08304425B2
To an ice-cooled solution of 2-chloro-N,N-dimethyl-acetamide (10 mL, 97.5 mmol) was added POCl3 (14 mL, 149.5 mmol). The clear mixture was stirred at room temperature for 20 min 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline (10.20 g, 65.0 mmol, for preparation see WO06086486A1) was added. The mixture was stirred at 80° C. for two hours. The mixture was poured on to ice (200 mL) and dichloromethane (300 mL). Aqueous sodium hydroxide was added to adjust to pH>12. The dichloromethane layer was separated, washed with water (300 mL), dried over Na2SO4, filtered and evaporated to give a dark solid. The solid was dissolved into DCM and purified by silica gel column chromatography (eluent: 0% to 1% EtOAc in DCM). 2-Chloro-1-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-ethanone was obtained as an off-white solid (10.82 g, 71%) after tituration with EtOAc. M.p.=118-119° C.; 1H NMR (400 MHz, CDCl3) δ: 8.00 (d, J=8.0 Hz, 1H), 7.82 (s, 1H), 7.23 (m, 1H), 7.03 (d, J=7.2 Hz, 1H), 4.51 (s, 2H), 4.21 (t, J=6.0 Hz, 2H), 3.01 (t, J=6.0 Hz, 2H), 2.27 (m, 2H). LCMS: m/e 234.03 [M+H].

reactant | 2-chloro-N,N-dimethyl-acetamide | 97.5 mmol, 10 mL | ClCC(=O)N(C)C | C4H8ClNO
reactant | POCl3 | 149.5 mmol, 14 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline | 65.0 mmol, 10.20 g | C1=CN2CCCC3=CC=CC1=C23 | C11H11N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 2-Chloro-1-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-ethanone | ClCC(=O)C1=CN2CCCC3=CC=CC1=C23 | C13H12ClNO
